US07371747B2
Synthesis of trans-N-cyanomethyl-2-(4-methylsulfanylbenzenesulfonylmethyl)cyclohexanecarboxamide
trans-N-Cyanomethyl-2-(4-fluorobenzenesulfonylmethyl)-cyclohexanecarboxamide (102 mg) was weighed into a 2.5 mL vial fitted with a stir vane and nitrogen inlet. Anhydrous toluene (1.5 mL) was added, followed by addition of sodium thiomethoxide (22 mg). The reaction mixture was heated to 70° C. and stirred overnight. After cooling to room temperature, the reaction mixture was stirred for two days. The reaction mixture was diluted with ethyl acetate (15 mL), washed with water and brine. The organic layer was removed, dried over magnesium sulfate and concentrated on a rotary evaporator. Chromatography of the crude product on C-18 reverse-phase HPLC provided the title compound as a white solid.

reactant | trans-N-Cyanomethyl-2-(4-fluorobenzenesulfonylmethyl)-cyclohexanecarboxamide | 102 mg | C(#N)CNC(=O)[C@H]1[C@@H](CCCC1)CS(=O)(=O)C1=CC=C(C=C1)F | C16H19FN2O3S
reactant | toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
reactant | sodium thiomethoxide | 22 mg | C[S-].[Na+]
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | trans-N-cyanomethyl-2-(4-methylsulfanylbenzenesulfonylmethyl)cyclohexanecarboxamide | C(#N)CNC(=O)[C@H]1[C@@H](CCCC1)CS(=O)(=O)C1=CC=C(C=C1)SC | C17H22N2O3S2
